US07700589B2
1i) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide
1.70 g (4.39 mmol) of (R)-2-amino-3-(3,4-diethyl-phenyl)-1-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-propan-1-one, dissolved in 25 mL of THF, was slowly added dropwise to the ice-cooled mixture of 75 mL of THF and 0.80 g (4.63 mmol) of CDT. Then the mixture was stirred for 30 min in the ice bath and for a further 45 min at RT before the solution of 1.1 g (4.48 mmol) of 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one in 20 mL of DMF was added and refluxed for 4 h. The reaction mixture was evaporated down under reduced pressure, the residue was combined with 50 mL of 15% K2CO3 solution and exhaustively extracted with DCM. The combined organic extracts were washed with water, dried over MgSO4, evaporated down and purified through silica gel. The crystallisation was from acetone. The desired product was obtained in the form of a crystalline solid.

reactant | (R)-2-amino-3-(3,4-diethyl-phenyl)-1-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-propan-1-one | 4.39 mmol, 1.70 g | N[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)C)CC1=CC(=C(C=C1)CC)CC | C23H38N4O
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 4.48 mmol, 1.1 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | THF | 75 mL | C1CCOC1 | C4H8O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl}-amide | C(C)C=1C=C(C[C@H](C(=O)N2CCN(CC2)C2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=CC1CC | C38H55N7O3
